US07176224B2
A mixture of 2-(4-cyclohexylphenoxy)-3-(4-hydroxyphenyl)-2-methyl-propionic acid ethyl ester (0.030 mmol) (see Ex. 29, Part C), toluene-4-sulfonic acid 2-(2-biphenyl-3-yl-5-methyloxazol-4-yl)ethyl ester (0.030 mmol) (see Ex. 2, Part P) and 325 mesh K2CO3 (0.084 g, 0.60 mmol) in ethanol (2 mL) was heated to reflux for 24 h under N2. Aqueous 5N NaOH (0.5 mL) and additional ethanol (1 mL) was added to the reaction mixture and it was heated at reflux for an additional 2 h. The reaction was cooled and the solvent removed in vacuo. The residue was acidified with aqueous 1 N HCl (5 mL), extracted with water and CH2Cl2 and the organic layer dried by passing it through a Varian Chem Elut 1003 cartridge. The solvent was removed in vacuo to give 3-{4-[2-(2-biphenyl-3-yl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-(4-cyclohexyl-phenoxy)-2-methyl-propionic acid. 1H NMR (400 MHz, CDCl3) δ 8.21 (s, 1H), 7.96–7.93 (m, 1H), 7.64 (t, 3H, J=8.21 Hz), 7.50–7.43 (m, 3H), 7.37 (d, 1H, J=8.21 Hz), 7.18 (d, 2H, J=8.60 Hz), 7.07 (d, 2H, J=8.60 Hz), 6.83 (dd, 4H, J=8.60 Hz, 5.47 Hz), 4.22 (t, 2H, J=6.65 Hz), 3.26 (d, 1H, J=14.08 Hz), 3.16 (d, 1H, J=14.08 Hz), 2.99 (t, 2H, J=6.65 Hz), 2.39 (s, 3H), 2.17 (s, 1H), 1.81 (d, 4H, J=9.78 Hz), 1.41 (s, 3H), 1.37–1.22 (m, 5H). MS (ES+) m/z mass calcd for C40H42NO5 616.31, found 616.3.

reactant | 2-(4-cyclohexylphenoxy)-3-(4-hydroxyphenyl)-2-methyl-propionic acid ethyl ester | 0.030 mmol | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC=C(C=C1)C1CCCCC1)=O | C24H30O4
reactant | toluene-4-sulfonic acid 2-(2-biphenyl-3-yl-5-methyloxazol-4-yl)ethyl ester | 0.030 mmol | C1(=CC(=CC=C1)C=1OC(=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C)C1=CC=CC=C1 | C25H23NO4S
reactant | K2CO3 | 0.60 mmol, 0.084 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | 5N, 0.5 mL | [OH-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-{4-[2-(2-biphenyl-3-yl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-(4-cyclohexyl-phenoxy)-2-methyl-propionic acid | C1(=CC(=CC=C1)C=1OC(=C(N1)CCOC1=CC=C(C=C1)CC(C(=O)O)(C)OC1=CC=C(C=C1)C1CCCCC1)C)C1=CC=CC=C1 | C40H41NO5
